US07691877B2
Benzyl-(2,3-diamino-6-pyrazol-1-yl-pyridin-4-yl)-carbamic acid ethyl ester
(2-Amino-3-nitro-6-pyrazol-1-yl-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (65.4 mg, 0.171 mmol) was dissolved in methanol (5 mL) and hydrogenated over Raney Nickel (25 mg) at room temperature, 80 psi for 1 hour. The reaction mixture was filtered through a short plug of Arbocel and the filtrate was then evaporated in vacuo to afford 58mg of the title compound as a brown residue.

reactant | (2-Amino-3-nitro-6-pyrazol-1-yl-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 0.171 mmol, 65.4 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)N1N=CC=C1)N)[N+](=O)[O-])=O | C18H18N6O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | Raney Nickel | 25 mg | [Ni] | Ni
product | Benzyl-(2,3-diamino-6-pyrazol-1-yl-pyridin-4-yl)-carbamic acid ethyl ester | 58mg | C(C)OC(N(C1=C(C(=NC(=C1)N1N=CC=C1)N)N)CC1=CC=CC=C1)=O | C18H20N6O2
